US08114874B2
N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyridin-3-ylethynyl)-4-methylbenzamide
The titled compound was made as for example 1 using N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide and 3-ethynylimidazo[1,2-a]pyridine: MS (M+H)+ 486. The titled compound can also be prepared according to the alternative synthesis described in example 1 from 3-(imidazo[1,2-a]pyridin-3-ylethynyl)-4-methylbenzoic acid and 3-(1H-imidazol-1-yl)-5-(trifluoromethyl)aniline (as prepared in Example 1). The 3-(imidazo[1,2-a]pyridin-3-ylethynyl)-4-methylbenzoic acid is prepared in a manner similar to that described in Example 1 using 3-Ethynylimidazo[1,2-a]pyridine and 3-iodo-4-methylbenzoic acid as Sonogashira coupling partners.

reactant | N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)I)=O | C18H13F3IN3O
reactant | 3-ethynylimidazo[1,2-a]pyridine | C(#C)C1=CN=C2N1C=CC=C2 | C9H6N2
product | N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyridin-3-ylethynyl)-4-methylbenzamide | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C#CC1=CN=C2N1C=CC=C2)=O | C27H18F3N5O
